US08912207B2
To a solution of 5-fluoro-2-methylsulfanylpyrimidin-4-ylamine (5.02 g, 31.6 mmol) in methyl alcohol (MeOH; 105 mL) was added dropwise a solution of OXONE™ (Registered trademark of E.I. du Pont de Nemours & Co, Inc.; 42.7 g, 69.4 mmol) in H2O (210 mL) over a 20 minute (min) period at −45° C., and the resulting mixture was slowly warmed to 10° C. over a period of 14 h. The mixture was treated with sodium bisulfite (10 g) and the majority of the MeOH was removed on the rotary evaporator. The aqueous residue was extracted with EtOAc (2×250 mL), and the organic extracts were combined, washed with brine (100 mL), dried over Na2SO4, filtered, and concentrated to give 5-fluoro-2-methanesulfonylpyrimidin-4-ylamine (3.79 g, 63%) as a white solid: mp 157-159° C.; 1H NMR (300 MHz, DMSO-d6) δ 8.35 (d, J=3.6 Hz, 1H), 8.11 (s, 2H), 3.27 (s, 3H); CIMS m/z 191 ([M]+).

reactant | 5-fluoro-2-methylsulfanylpyrimidin-4-ylamine | 31.6 mmol, 5.02 g | FC=1C(=NC(=NC1)SC)N | C5H6FN3S
reactant | OXONE | OOS(=O)[O-].[K+]
reactant | sodium bisulfite | 10 g | S([O-])(O)=O.[Na+]
reactant | methyl alcohol | 105 mL | CO | CH4O
solvent | H2O | 210 mL | O | H2O
product | 5-fluoro-2-methanesulfonylpyrimidin-4-ylamine | 3.79 g, 63% | FC=1C(=NC(=NC1)S(=O)(=O)C)N | C5H6FN3O2S
